US07687627B2
(S)-N-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The mixture of triethylamine (13.8 mmol), lithium bromide (8.2 mmol) and diethylcyanomethylphosphonate (7.2 mmol) in 25 ml tetrahydrofuran was stirred for 20 minutes at room temperature. To the suspension, (S)-{3-[4-(4-oxo-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (6.9 mmol) was added. The reaction mixture stirred for 5 hours.

reactant | triethylamine | 13.8 mmol | C(C)N(CC)CC | C6H15N
reactant | lithium bromide | 8.2 mmol | [Br-].[Li+]
reactant | diethylcyanomethylphosphonate | 7.2 mmol | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | (S)-{3-[4-(4-oxo-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 6.9 mmol | O=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CCC(=O)N)=O | C17H21N3O4
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | C(#N)C=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C19H22N4O3
